US06235731B1
2) Synthesis of N-[1-[3-(3-ethoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 473.3 mg (0.93 mmol.) of N-[1-[3-(3-ethoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (5 ml) was added, at room temperature, 2 ml (24 mmol.) of 12N hydrochloric acid. The mixture was stirred for several minutes. The reaction mixture was concentrated under reduced pressure. To the concentrate was added ethanol. The resulting crystals were collected by filtration and washed with ethanol and diethyl ether to give the object compound (425.4 mg, 79%) as orange crystals, m.p.140-145° C.

reactant | N-[1-[3-(3-ethoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.93 mmol, 473.3 mg | C(C)OC(=O)C=1C=C(OCCCN2CCC(CC2)NC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=CC1 | C27H30N4O4S
reactant | hydrochloric acid | 24 mmol, 12N, 2 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[1-[3-(3-ethoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 425.4 mg, 79% | Cl.Cl.C(C)OC(=O)C=1C=C(OCCCN2CCC(CC2)NC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=CC1 | InChI=1S/C27H30N4O4S.2ClH/c1-2-34-27(33)19-6-3-7-22(16-19)35-15-5-12-30-13-10-20(11-14-30)29-26(32)23-17-21-18-28-24-8-4-9-25(36-23)31(21)24;;/h3-4,6-9,16-18,20H,2,5,10-15H2,1H3,(H,29,32);2*1H
